US04629727
A solution of chloroacetylchloride (3 g) in dry ether was added dropwise to a stirred solution of [1-(3,4-dichlorophenyl)cyclobutyl]methylamine (6.2 g prepared from the hydrochloride salt described above) and triethylamine (2.9 g) in dry ether (20 ml) at a temperature of 5° to 10° C. The mixture was stirred for four hours, filtered and the filtrate washed with water, dried and evaporated to give N-(2-chloroacetyl)[1-(3,4-dichlorophenyl)cyclobutyl]methylamine (m.p. 104°-105° C.).

reactant | chloroacetylchloride | 3 g | ClCC(=O)Cl | C2H2Cl2O
reactant | [1-(3,4-dichlorophenyl)cyclobutyl]methylamine | ClC=1C=C(C=CC1Cl)C1(CCC1)CN | C11H13Cl2N
reactant | triethylamine | 2.9 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | N-(2-chloroacetyl)[1-(3,4-dichlorophenyl)cyclobutyl]methylamine | ClCC(=O)NCC1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C13H14Cl3NO
